US07763639B2
3-BROMO-2-FLUORO-N,N-DIMETHYLBENZENESULFONAMIDE
3-bromo-2-fluorobenzenethiol (1.9 g, 9.2 mmol), sodium periodate (4.8 g, 22.9 mmol) and ruthenium trichloride (5 mg) in acetonitrile (60 ml) was stirred at 0° C. for 5 min. after which sulfonyl chloride (1.9 ml, 22.9 mmol) was added dropwise. The mixture was stirred for an additional hour and ethyl acetate (50 ml) and aqueous sodium carbonate (10%, 50 ml) was added. The phases were separated and the aqueous phase was extracted with ethyl acetate (2×50 ml). To the combined organic phase, dimethylamine (40% in water, 10 ml) was added and the mixture was stirred for 1 h. Evaporation of the solvents and purification by flash chromatography yielded the title compound (1.1 g). MS m/z (rel. intensity, 70 eV) 283 (M+, 47), 281 (M+, 44), 239 (32), 73 (59), 94 (bp).

reactant | 3-bromo-2-fluorobenzenethiol | 9.2 mmol, 1.9 g | BrC=1C(=C(C=CC1)S)F | C6H4BrFS
reactant | sodium periodate | 22.9 mmol, 4.8 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sulfonyl chloride | 22.9 mmol, 1.9 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile | 60 ml | C(C)#N | C2H3N
catalyst | ruthenium trichloride | 5 mg | [Ru](Cl)(Cl)Cl
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-BROMO-2-FLUORO-N,N-DIMETHYLBENZENESULFONAMIDE | 1.1 g | BrC=1C(=C(C=CC1)S(=O)(=O)N(C)C)F | C8H9BrFNO2S
